US08685977B2
5-chloro-4-[4-chloro-2-(difluoromethoxy)phenoxy]-2-fluoro-N-(methylsulfonyl)benzamide
To a solution of ethyl 5-chloro-4-[4-chloro-2-(difluoromethoxy)phenoxy]-2-fluorobenzoate (Preparation 131, 0.070 g, 0.000177 mol) in tetrahydrofuran (2.50 mL) and water (2.50 mL) was added lithium hydroxide (0.050 g, 0.00209 mol). The reaction mixture was stirred at room temperature under nitrogen for 4 hours. The reaction was diluted with ethyl acetate (10.0 mL) and washed with a saturated aqueous solution of brine (10.0 mL). The organic layer was separated, dried with sodium sulphate, filtered and concentrated in vacuo. The crude was taken up in dichloromethane (5.0 mL) and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.051 g, 0.000266 mol), N,N-dimethylpyridin-4-amine (0.049 g, 0.000401) and methanesulfonamide (0.026 g, 0.000273 mol) were added and the mixture was stirred at room temperature under nitrogen for 16 hours. The reaction was diluted in dichloromethane (10.0 mL) and washed twice with an aqueous solution of hydrochloric acid (2M, 15.0 mL). The biphasic system was passed through a separation cartridge to collect the organic layer, which was then concentrated in vacuo. The crude was purified using silica gel column chromatography eluting with 0-100% EtOAc in heptane, 4 g. The compound obtained was then triturated in tert-butyl methyl ether to yield title compound as a pale pink solid (0.020 g, 25% yield).

reactant | ethyl 5-chloro-4-[4-chloro-2-(difluoromethoxy)phenoxy]-2-fluorobenzoate | 0.000177 mol, 0.070 g | ClC=1C(=CC(=C(C(=O)OCC)C1)F)OC1=C(C=C(C=C1)Cl)OC(F)F | C16H11Cl2F3O4
reactant | lithium hydroxide | 0.00209 mol, 0.050 g | [OH-].[Li+]
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.000266 mol, 0.051 g | Cl.CN(CCCN=C=NCC)C
reactant | methanesulfonamide | 0.000273 mol, 0.026 g | CS(=O)(=O)N | CH5NO2S
solvent | tetrahydrofuran | 2.50 mL | O1CCCC1 | C4H8O
solvent | water | 2.50 mL | O | H2O
solvent | ethyl acetate | 10.0 mL | C(C)(=O)OCC | C4H8O2
catalyst | N,N-dimethylpyridin-4-amine | 0.049 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10.0 mL | ClCCl | CH2Cl2
product | 5-chloro-4-[4-chloro-2-(difluoromethoxy)phenoxy]-2-fluoro-N-(methylsulfonyl)benzamide | 0.020 g, 25% yield | ClC=1C(=CC(=C(C(=O)NS(=O)(=O)C)C1)F)OC1=C(C=C(C=C1)Cl)OC(F)F | C15H10Cl2F3NO5S
